US05955495
0.55 g (2.8 mmol) of 5,6-difluorobenzofuran-2-carboxamidine was dissolved in 10 ml of methanol-HCI (2.6N) and treated at room temperature while stirring with 100 ml of diethyl ether. The mixture was stirred for a further 3 hours and the white crystals were subsequently filtered off. There was obtained 0.61 g (87%) of 5,6-difluorobenzofuran-2-carboxamidine hydrochloride with m.p. >270°.

reactant | 5,6-difluorobenzofuran-2-carboxamidine | 2.8 mmol, 0.55 g | FC=1C(=CC2=C(C=C(O2)C(=N)N)C1)F | C9H6F2N2O
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
reactant | methanol-HCI | 2.6N, 10 ml | Cl.CO
product | 5,6-difluorobenzofuran-2-carboxamidine hydrochloride | 0.61 g, 87% | Cl.FC=1C(=CC2=C(C=C(O2)C(=N)N)C1)F | InChI=1S/C9H6F2N2O.ClH/c10-5-1-4-2-8(9(12)13)14-7(4)3-6(5)11;/h1-3H,(H3,12,13);1H
